* Show bitstream source 

* Initialize the sources
one 0
clk 1 100p

*bsrc 0 1 2 {0, 0, 0}
bsrc 0 1 2 {0, 252, 15, 0} 1550.0e-9
*bsrc 0 1 2 {0, 252, 15, 0} 1545.0e-9

* split
dc 2 3 4 5
dc 6 7 8 9
dc 12 13 10 11
dc 16 17 14 15

wg 10 3 350.85477427u
*wg 5 18 350.85477427u
wg 5 12 350.85477427u

* resonance at 1545
*wg 14 7 351.08113608611u
*wg 9 16 351.08113608611u
* resonance at 1550
wg 14 7 350.85477427u
wg 9 16 350.85477427u

wg 4 6 701.12011675u
wg 15 13 701.12011675u


* feed into detector
* Input
pdet 2 35 24

* Inside ring1
pdet 12 36 23

* Through 1 port
*pdet 4 37 25

* Through 2 port
pdet 8 38 26

* Drop port
pdet 11 39 27

* Inside ring2
pdet 13 40 28

*tracefile "traces/double_ring"
*tracenet 20 "SIG_IN"
*tracenet 2 "SIG_IN_1"
*tracenet 4 "SIG_ADD_1"
*tracenet 11 "SIG_DROP_1"
*tracenet 8 "SIG_ADD_2"
*tracenet 15 "SIG_DROP_2"
